US07678799B2
Aqueous HCl (37%) (10 ml) was added to a slurry of ziprasidone base Form B (10 g) in acetonitrile (200 ml) at reflux. After the addition, the slurry was heated over night. A solid was filtered and washed with acetonitrile. After drying at 50° C. for ˜16 hours, ziprasidone HCl Form E was obtained (12.71 g) (The water content was 9.25% by K.F. and the loss on drying by TGA is 18.8%), as confirmed by XRD.

reactant | HCl | 10 ml | Cl | ClH
reactant | ziprasidone | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5 | C21H21ClN4OS
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | ziprasidone HCl | C=1C=CC2=C(C1)C(=NS2)N3CCN(CC3)CCC=4C=C5C(=CC4Cl)NC(=O)C5.Cl | InChI=1S/C21H21ClN4OS.ClH/c22-17-13-18-15(12-20(27)23-18)11-14(17)5-6-25-7-9-26(10-8-25)21-16-3-1-2-4-19(16)28-24-21;/h1-4,11,13H,5-10,12H2,(H,23,27);1H
